US07592477B2
Step a) Formation of N-(3-chlorobenzyl)-N-[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amine
The same procedure as employed in the preparation of Example 226 (step a) but using 1-[4-(3-undecyl-1,2,4-oxadiazol-5-yl)phenyl]methanamine and 3-chlorobenzaldehyde gave the title compound as a colorless oil (86%). 1H NMR (DMSO-d6, 300 MHz) δ 8.03 (d, J=8.3 Hz, 2H), 7.58 (d, J=8.3 Hz, 2H), 7.43 (s, 1H), 7.65-7.23 (m, 3H), 3.77 (s, 2H), 3.70 (s, 2H), 3.30 (s, 1H), 2.75 (t, J=7.2 Hz, 2H), 1.79-1.65 (m, 2H), 1.41-1.16 (m, 16H), 0.84 (t, J=7.0 Hz, 3H). HPLC (Condition A), Rt: 5.19 min (HPLC purity: 98.4%).

reactant | 1-[4-(3-undecyl-1,2,4-oxadiazol-5-yl)phenyl]methanamine | C(CCCCCCCCCC)C1=NOC(=N1)C1=CC=C(C=C1)CN | C20H31N3O
reactant | 3-chlorobenzaldehyde | ClC=1C=C(C=O)C=CC1 | C7H5ClO
product | N-(3-chlorobenzyl)-N-[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amine | 86% | ClC=1C=C(CNCC2=CC=C(C=C2)C2=NC(=NO2)CCCCCCCCCCC)C=CC1 | C27H36ClN3O
